* Z:\mnt\design.r\spice\examples\1649.asc
XU1 N005 N002 0 N015 N006 N014 IN N013 N010 N001 N012 N008 N007 N004 N001 N009 LTC1649
M§Q1 IN N005 N003 N003 Si4420DY
M§Q2 N003 N009 0 0 Si4410DY
D1 N001 N002 1N5818
R1 N004 N001 22
R2 IN N008 22K
C1 N004 0 10µ
C2 N010 N013 1µ
L1 N003 OUT 1.2µ
C3 OUT 0 4700µ Rser=0.06
R3 N003 N007 1K
R4 OUT N015 12.4K
R5 N015 0 12.7K
C4 N014 0 .001µ
C5 N012 0 220p
C6 N011 0 .01µ
R6 N012 N011 7.6K
V1 IN 0 3.3
C7 N003 N002 1µ
C8 N001 0 10µ
Rload OUT 0 .5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1649.sub
.backanno
.end
